US04950677
A suspension of 13 g of 5,6-dichloro-2-benzimidazolethiol in 360 ml of alcohol was treated with 13 g of 2-chloromethyl-4-methoxy 3-methylpyridine hydrochloride. A solution of 4 g of sodium hydroxide in 170 ml of water was added dropwise thereto while cooling with ice. The mixture was left to boil at reflux overnight and then concentrated to about 1/3 of its volume in a vacuum. After the addition of 600 ml of water the crystals were filtered off and thereupon washed thoroughly with water and then with ether. There was obtained 5,6-dichloro-2-[[(4-methoxy-3-methyl-2-pyridyl)methyl]thio]benzimidazole of melting point 254°-256°.

reactant | 5,6-dichloro-2-benzimidazolethiol | 13 g | ClC1=CC2=C(N=C(N2)S)C=C1Cl | C7H4Cl2N2S
reactant | 2-chloromethyl-4-methoxy 3-methylpyridine hydrochloride | 13 g | Cl.ClCC1=NC=CC(=C1C)OC
reactant | sodium hydroxide | 4 g | [OH-].[Na+]
solvent | water | 170 ml | O | H2O
product | 5,6-dichloro-2-[[(4-methoxy-3-methyl-2-pyridyl)methyl]thio]benzimidazole | ClC1=CC2=C(N=C(N2)SCC2=NC=CC(=C2C)OC)C=C1Cl | C15H13Cl2N3OS
